US07557103B2
A. 3-Chloro-thieno[2,3-b]pyridine
500 mg of 3-Bromo-thieno[2,3-b]pyridine (2.3 mmol) and 136 mg of copper chloride (I) (2.78 mmol) are placed into reaction vial with 3.0 ml of dry DMF. The vial is capped with a Teflon cap and heated at 130° C. overnight. The reaction mixture is poured into CH2Cl2 and washed with NaHCO3, brine and dried over Na2SO4. The solvents are removed and the residue applied onto a chromatography silica-gel column (Hexane:AcOEt=10:1) to give 280 mg of the title compound (71%); mass spectrum (m/e): 170; 1H-NMR (CDCl3): 8.53 (m, 1H), 8.11 (m, 1H), 7.41 (m, 2H) ppm.

reactant | 3-Bromo-thieno[2,3-b]pyridine | 2.3 mmol, 500 mg | BrC1=CSC2=NC=CC=C21 | C7H4BrNS
reactant | DMF | 3.0 ml | CN(C)C=O | C3H7NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper chloride | 2.78 mmol, 136 mg | [Cu](Cl)Cl
product | 3-Chloro-thieno[2,3-b]pyridine | 280 mg, 71% | ClC1=CSC2=NC=CC=C21 | C7H4ClNS
